US07781443B2
(2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(tetrazol-5-yl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (120 mg), potassium carbonate (51 mg) and excess of 2-bromoethanol are dissolved in N,N-dimethylformamide (3 ml), and the mixture is stirred at 50° C. for 2 hours. Water and ethyl acetate are added to the reaction solution and the organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by column chromatography (silica gel; hexane: ethyl acetate=2:1→1:1) to give (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[2-(2-hydroxyethyl)-2H-tetrazole-5-yl]pyridin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester (119 mg). MS (m/z): 695 [M+H]+

reactant | (2R*,4S*)-4-{[3,5-Bis(trifluoromethyl)benzyl]-[5-(tetrazol-5-yl)pyridin-2-yl]}amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C1=NN=NN1)CC | C29H28F6N8O3
reactant | potassium carbonate | 51 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromoethanol | BrCCO | C2H5BrO
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R*,4S*)-4-([3,5-bis(trifluoromethyl)benzyl]-{5-[2-(2-hydroxyethyl)-2H-tetrazole-5-yl]pyridin-2-yl})amino-2-ethyl-6-methoxy-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid ethyl ester | 119 mg | C(C)OC(=O)N1[C@@H](C[C@@H](C2=NC(=CC=C12)OC)NC1=NC=C(C=C1CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C=1N=NN(N1)CCO)CC | C31H32F6N8O4
